US05459260
(3S,4S)-4-[(2R)-3-Oxotetrahydropyran-2-yl]-1-(trimethylsilyl) -3-[(R)-1-(trimethylsilyloxy)ethyl]azetidin-2-one was reacted as in Reference Example 38 except that 1,2-bis(allyloxycarbonyl)-4-phenylsulfonylthiopyrazolidine was used in lieu of S-methyl benzenethiosulfonate to give (3S,4S)-4-[(2R)-4-[[1,2-bis(allyloxycarbonyl)pyrazolidin-4-yl]thio]-3-oxotetrahydropyran-2-yl]-3-[(R)-1-(trimethylsilyloxy)ethyl]azetidin-2-one.

reactant | (3S,4S)-4-[(2R)-3-Oxotetrahydropyran-2-yl]-1-(trimethylsilyl) -3-[(R)-1-(trimethylsilyloxy)ethyl]azetidin-2-one | O=C1[C@H](OCCC1)[C@@H]1[C@H](C(N1[Si](C)(C)C)=O)[C@@H](C)O[Si](C)(C)C | C16H31NO4Si2
reactant | 1,2-bis(allyloxycarbonyl)-4-phenylsulfonylthiopyrazolidine | C(C=C)OC(=O)N1N(CC(C1)SS(=O)(=O)C1=CC=CC=C1)C(=O)OCC=C | C17H20N2O6S2
reactant | S-methyl benzenethiosulfonate | C1(=CC=CC=C1)S(=O)(SC)=O | C7H8O2S2
product | (3S,4S)-4-[(2R)-4-[[1,2-bis(allyloxycarbonyl)pyrazolidin-4-yl]thio]-3-oxotetrahydropyran-2-yl]-3-[(R)-1-(trimethylsilyloxy)ethyl]azetidin-2-one | C(C=C)OC(=O)N1N(CC(C1)SC1C([C@H](OCC1)[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C | C24H37N3O8SSi
